US08623889B2
Step 2: N-(4-bromo-7-(5-fluoro-2-methylphenyl)isoquinolin-3-yl)cyclopropanecarboxamide
To 4-bromo-7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine (46 mg, 140 μmol) and pyridine (110 μl, 1.4 mmol) in dichloromethane (3.0 mL) at ambient temperature was added dropwise cyclopropanecarbonyl chloride (60 μl, 0.66 mmol). After 1 h the mixture was poured into saturated aqueous sodium bicarbonate, extracted twice into dichloromethane and the combined organic phases dried over sodium sulfate, filtered and concentrated in vacuo to afford a residue that was purified by reverse phase HPLC (gradient of acetonitrile in water with 0.1% formic acid) to yield the title compound as a white amorphous solid (57 mg, quant.). 1H NMR (400 MHz, DMSO) δ 10.54 (s, 1H), 9.26 (s, 1H), 8.27-8.14 (m, 2H), 7.97 (d, J=8.6 Hz, 1H), 7.49-7.33 (m, 1H), 7.21 (t, J=9.2 Hz, 2H), 2.25 (s, 3H), 1.98-1.84 (m, 1H), 0.90-0.78 (m, 4H). LCMS (Method E): RT 5.299 min, M+H+=399.0 & 401.0.

reactant | 4-bromo-7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine | 140 μmol, 46 mg | BrC1=C(N=CC2=CC(=CC=C12)C1=C(C=CC(=C1)F)C)N | C16H12BrFN2
reactant | pyridine | 1.4 mmol, 110 μl | N1=CC=CC=C1 | C5H5N
reactant | cyclopropanecarbonyl chloride | 0.66 mmol, 60 μl | C1(CC1)C(=O)Cl | C4H5ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
product | N-(4-bromo-7-(5-fluoro-2-methylphenyl)isoquinolin-3-yl)cyclopropanecarboxamide | BrC1=C(N=CC2=CC(=CC=C12)C1=C(C=CC(=C1)F)C)NC(=O)C1CC1 | C20H16BrFN2O
